US06703348B2
Step 2: 2-Chloro-4-methylsulfonyl-3-(3a,4,5,6a-tetrahydrofuro[3,2-d]isoxazol-3-yl)benzoic acid
60.0 g (168.8 mmol) of methyl 2-chloro-4-methylsulfonyl-3-(3a,4,5,6a-tetrahydrofuro[3,2-d]isoxazol-3-yl)benzoate are dissolved in 600 ml of tetrahydrofuran/300 ml of water, and 7.34 g (183.4 mmol) of sodium hydroxide are added. After the reaction mixture has been stirred for 18 hours at room temperature, it is concentrated, brought to pH 2 with 2 N hydrochloric acid and extracted with dichloromethane. This gives 63.6 g of crude 2-chloro-4-methylsulfonyl-3-(3a,4,5,6a-tetrahydrofuro[3,2-d]isoxazol-3yl)benzoic acid as a foam.

reactant | methyl 2-chloro-4-methylsulfonyl-3-(3a,4,5,6a-tetrahydrofuro[3,2-d]isoxazol-3-yl)benzoate | 168.8 mmol, 60.0 g | ClC1=C(C(=O)OC)C=CC(=C1C1=NOC2C1CCO2)S(=O)(=O)C | C14H14ClNO6S
reactant | sodium hydroxide | 183.4 mmol, 7.34 g | [OH-].[Na+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Chloro-4-methylsulfonyl-3-(3a,4,5,6a-tetrahydrofuro[3,2-d]isoxazol-3-yl)benzoic acid | ClC1=C(C(=O)O)C=CC(=C1C1=NOC2C1CCO2)S(=O)(=O)C | C13H12ClNO6S
